US03979360
Preparation of N-n-octadecyl-4-(3,5-di-tert.butyl-4-hydroxybenzoyloxy)-3,5-di-tert.butylbenzamide
10.10 grams of 4-(3,5-di-tert.butyl-4-hydroxybenzoyloxy)-3,5-di-tert-butylbenzoyl chloride 5.4 grams of n-octadecylamine and 2.0 grams of triethylamine were heated together in about 100 ml of toluene for about 5 hours at 90° to 98°C. The precipitated triethylamine hydrochloride was filtered. The filtrate was washed with water and dried over anhydrous sodium sulfate. The dried toluene solution was concentrated to remove toluene under reduced pressure yielding 14.5 grams of the product. The product was crystallized twice from acetonitrile and melted at 139° to 140°C.

reactant | 4-(3,5-di-tert.butyl-4-hydroxybenzoyloxy)-3,5-di-tert-butylbenzoyl chloride | 10.10 grams | C(C)(C)(C)C=1C=C(C(=O)OC2=C(C=C(C(=O)Cl)C=C2C(C)(C)C)C(C)(C)C)C=C(C1O)C(C)(C)C | C30H41ClO4
reactant | n-octadecylamine | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | triethylamine | 2.0 grams | C(C)N(CC)CC | C6H15N
solvent | toluene | about 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-n-octadecyl-4-(3,5-di-tert.butyl-4-hydroxybenzoyloxy)-3,5-di-tert.butylbenzamide | 14.5 grams | C(CCCCCCCCCCCCCCCCC)NC(C1=CC(=C(C(=C1)C(C)(C)C)OC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)C(C)(C)C)=O | C48H79NO4
